US07582644B2
i) 6-Amino-2-[(3-chloro-2-fluorobenzyl)thio]pyrimidin-4(3H)-one
The subtitle compound was prepared according to the procedure of Example 1 step i) treating 4-amino-6-hydroxy-2-mercaptopyrimidine monohydrate (8.4 g) with 3-chloro-2-fluorobenzyl bromide (11.0 g) to afford the subtitle compound as a white solid. Yield: 14.1 g.

reactant | 4-amino-6-hydroxy-2-mercaptopyrimidine monohydrate | 8.4 g | O.NC1=NC(=NC(=C1)O)S
reactant | 3-chloro-2-fluorobenzyl bromide | 11.0 g | ClC=1C(=C(CBr)C=CC1)F | C7H5BrClF
product | 6-Amino-2-[(3-chloro-2-fluorobenzyl)thio]pyrimidin-4(3H)-one | NC1=CC(NC(=N1)SCC1=C(C(=CC=C1)Cl)F)=O | C11H9ClFN3OS
